US04259504
N,N-Dimethyl-N'-[p-(5-phenyl-1H-1,2,4-triazol-1-yl)phenyl]formamidine
A 1.5 g. portion of 1-(p-aminophenyl)-5-phenyl-1H-1,2,4-triazole in 10.0 ml. of dimethylformamide dimethylacetal and 4.0 ml. of dimethylformamide is heated at 90°-95° C. for 1.5 hours. The solution is concentrated to 10 ml., cooled and then evaporated at 60° C. to an oil. This oil is triturated with 50 ml. of ether. The solid is collected by filtration and recrystallized from chloroform-hexane giving 670 mg. of the desired product as yellow plates, mp. 109°-111° C.

reactant | 1-(p-aminophenyl)-5-phenyl-1H-1,2,4-triazole | NC1=CC=C(C=C1)N1N=CN=C1C1=CC=CC=C1 | C14H12N4
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N,N-Dimethyl-N'-[p-(5-phenyl-1H-1,2,4-triazol-1-yl)phenyl]formamidine | CN(C=NC1=CC=C(C=C1)N1N=CN=C1C1=CC=CC=C1)C | C17H17N5
